Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
intrauterine fetal demise
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G2P1 at ___ who presents to L&D from ___ with
confirmed IUFD. Patient was seen in clinic earlier today with
report of DFM today. No FHR able to be appreciated in clinic and
patient was sent to ___ for ultrasound. IUFD was confirmed in
___ and an amniocentesis was performed. 

Patient presents today with mother and father. She denies any
abdominal pain, bleeding, or LOF. No contractions or abnormal
discharge. She denies any fevers, chills, or recent sick
contacts. No HA, CP, SOB. 
 
Past Medical History:
PNC:
- Labs O+/Abs neg/Rub I/RPR NR/HBsAg neg/HIV neg
- Screening: neg zika testing, ___ wnl. per pt genetic
testingof donors all negative pt herself neg for CF , neg
___ panel, neg fragile x and neg SMA inpast
- FFS: wnl
- GLT: nl
- U/S: 
     (___) IUFD confirmed. FHR 0. EFW 2370g, 55%. AFI 19.6.
Amniocentesis performed with collection sample of 30cc fluid. 
     (___) EFW 1842g, 97%. AC >98%. No fetal morphologic
abnormalities. AFI 23.

 
OBHx:
- G1: c/s for arrest of decent. 7lb 15oz.
- G2: current. IVF pregnancy with donor egg (donor age ___ and
donor sperm. 
 
GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: 
- anxiety/depression: on celexa and followed by therapist
- hx of back pain and degenerative disc disease
 
PSH: 
- LTCS
- knee surgery
- foot surgery
- finger surgery

 
Social History:
SHx: denies T/E/D
 
Physical Exam:
VS: 
___ 14:08BP: 143/80 (92)
___ ___: 87
___ 14:08Temp.: 97.9°F
___ 14:08Resp.: 20 / min
Gen: A&O, comfortable
CV: RRR
PULM: CTAB
Abd: soft, gravid, nontender
Ext: no calf tenderness
 
SVE: L/C/P @ 1325 per Dr ___: flat

 
Pertinent Results:
___ 01:56PM BLOOD WBC-10.9* RBC-3.97 Hgb-10.5* Hct-32.3* 
MCV-81* MCH-26.4 MCHC-32.5 RDW-15.1 RDWSD-44.2 Plt ___
___ 03:25AM BLOOD WBC-14.6*# RBC-3.39* Hgb-8.7* Hct-28.0* 
MCV-83 MCH-25.7* MCHC-31.1* RDW-15.2 RDWSD-45.0 Plt ___
___ 03:55PM BLOOD WBC-18.6* RBC-2.50* Hgb-6.7* Hct-20.1* 
MCV-80* MCH-26.8 MCHC-33.3 RDW-15.1 RDWSD-43.8 Plt ___
___ 09:15AM BLOOD WBC-10.1* RBC-2.89* Hgb-8.0* Hct-24.7* 
MCV-86 MCH-27.7 MCHC-32.4 RDW-15.5 RDWSD-47.9* Plt ___
___ 01:56PM BLOOD ___ PTT-27.0 ___
___ 01:56PM BLOOD Plt ___
___ 07:24PM BLOOD ___ PTT-25.7 ___
___ 05:43PM BLOOD ___
___ 01:56PM BLOOD ALT-23 LD(___)-___*
___ 09:57AM BLOOD ALT-14 AST-35
 
Brief Hospital Course:
Ms. ___ was admitted to labor and delivery on ___. She was 
seen by social work, chaplain services and maternal fetal 
medicine consult. She was started on Pitocin for induction of 
labor. A foley balloon was placed for cervical ripening. She 
received dilaudid and then an epidural for pain control. She 
progressed to fully dilated and began to push. She had a 
spontaneous vaginal delivery of a stillborn female infant on 
___. There was some uterine atony and 1000mcg misoprostol 
were placed rectally. There was a second degree laceration that 
was repaired in the typical fashion. Initial EBL was 300mL. She 
intermittently had further bleeding constituting a post partum 
hemorrhage. 

She was taken to the operating room for an US guided D&C and 
Bakri balloon placement. She received 1 g Ancef, 1 unit pRBC, 3 
units FFP, 1 unit of cryoprecipitate, total EBL 1500cc due to 
intermittent atony. She also received an additional 60 units of 
pitocin, and 2 doses of hemabate. Her post operative HCT was 
noted to be 20.1 and she was subsequently transfused an 
additional 2 units of packed RBCs, with a post transfusion HCT 
of 22.2. On PPD#1, her Bakri balloon and vaginal packing was 
removed. 

On PPD#1, Her foley catheter was removed but she was only able 
to void ___ after 8 hours. Foley was replaced for 620cc given 
urinary retention. It was kept in place for 18 hours and she was 
able to void spontaneously. 

On PPD#2, she was noted to have chest pressure. She had a stat 
EKG done which did not show any signs of ischemia. Troponin was 
negative. CBC showed improving HCT of 24.7. Her chest pressure 
resolved spontaneously. 

For her gestational hypertension, she had normal PIH labs and a 
negative P:C on admission. Her BPs remained in the normal to 
mild range and she did not have any pre-eclampsia symptoms. 

Given IUFD, she was followed by social work and chaplain 
services. 

By PPD#2, she was discharged home in stable condition with close 
follow up scheduled. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every six (6) hours Disp #*40 Tablet 
Refills:*0 
2.  Dermoplast Spray 1 SPRY TP Q6H:PRN perineal pain  
3.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*40 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Severe 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
5.  Citalopram 20 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-vaginal delivery after history of C-section
-IUFD at 33 weeks 
-gestational hypertension
-postpartum hemorrhage s/p uterotonics, D&C, Bakri balloon, 
vagainal packing and blood products transfusion (3 units pRBC, 3 
unit FFP, 1 unit cryo  
-urinary retention, s/p bladder rest with foley catheter, post 
void residual 92 cc. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Void every 2 to 3 hours. 
Nothing in the vagina for 6 weeks (No sex, douching, tampons)
Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the ___ Clinic or Emergency Line if you 
develop shortness of breath, dizziness, palpitations, fever of 
101 or above, abdominal pain, heavy vaginal bleeding, 
nausea/vomiting or any other concerns.

 
Followup Instructions:
___